US07235572B2
In analogy to the procedure described in example 2 c], (3-methyl-6-{2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-indol-1-yl)-acetic acid tert-butyl ester was treated with LiOH to obtain (3-methyl-6-{2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-indol-1-yl)-acetic acid as off-white solid.

reactant | (3-methyl-6-{2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C2=CC=C(C=C12)OCCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C28H29F3N2O3S
reactant | LiOH | [Li+].[OH-]
product | (3-methyl-6-{2-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-indol-1-yl)-acetic acid | CC1=CN(C2=CC(=CC=C12)OCCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)CC(=O)O | C24H21F3N2O3S
